US08912365B2
A stirred autoclave was charged, at room temperature, with 69.14 g (751 mmol) of glycerol, 12.34 g (61.6 mmol) of palmitic acid, 1.29 g (10 wt %) of camphosulfonic acid and 1.39 g (1.0 mol %) of Pd/C at 5%. The autoclave was then pressurized at 50 bar of dihydrogen gas H2, and then it was heated at 140° C. for 16 h, stirring vigorously. After 16 h of reaction, the reaction mixture was brought back to room temperature. The catalyst was filtered on a MILLIPORE® filter (a membrane filter) (0.1 μm) and was rinsed with absolute ethanol. The solvents were evaporated and the organic products were extracted from the glycerol phase by extraction with CH2Cl2 (3×50 ml). The organic phase was washed with water (2×30 ml) and the CH2Cl2 was then evaporated at reduced pressure. The crude reaction product was purified on a flash silica column (eluent: cyclohexane/ethyl acetate=6:1˜1:1). 1-O-hexadecanyl-glycerol ether was obtained at an isolated yield of 28%.

reactant | glycerol | 751 mmol, 69.14 g | OCC(O)CO | C3H8O3
reactant | palmitic acid | 61.6 mmol, 12.34 g | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
catalyst | Pd/C | 1.39 g | [Pd] | Pd
product | 1-O-hexadecanyl-glycerol ether | yield of 28% | C(CCCCCCCCCCCCCCC)OCC(O)CO.CCOCC | InChI=1S/C19H40O3.C4H10O/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-22-18-19(21)17-20;1-3-5-4-2/h19-21H,2-18H2,1H3;3-4H2,1-2H3
